US08378104B2
Step E: 7-iodo-2-methoxymethyl-benzothiazol-6-ylamine
To a solution of iodine monochloride in water (1.5 mL) and 12 N hydrochloric acid (0.46 mL) was added 2-methoxymethyl-benzothiazol-6-ylamine (0.5 g, 2.57 mmol) in water (3 mL) and 12 N hydrochloric acid (0.23 mL). The reaction mixture stirred at RT for 2 h and was then neutralized with saturated aqueous sodium bicarbonate solution. The reaction mixture was extracted with ethyl acetate, dried over sodium sulfate, filtered and concentrated. Purification of the residue by column chromatography (20 to 30% ethyl acetate:hexanes) afforded 800 mg (91%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.74 (d, J=8.7 Hz, 1H), 6.86 (d, J=8.7 Hz, 1H), 4.77 (s, 2H), 4.23 (br. s, 2H), 3.53 (s, 3H).

reactant | iodine monochloride | ICl | ClI
reactant | 2-methoxymethyl-benzothiazol-6-ylamine | 2.57 mmol, 0.5 g | COCC=1SC2=C(N1)C=CC(=C2)N | C9H10N2OS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 1.5 mL | O | H2O
solvent | hydrochloric acid | 12 N, 0.46 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | hydrochloric acid | 12 N, 0.23 mL | Cl | ClH
product | 7-iodo-2-methoxymethyl-benzothiazol-6-ylamine | 800 mg, 91% | IC1=C(C=CC=2N=C(SC21)COC)N | C9H9IN2OS
